US06521643B1
To a suspension of 2-chloro-5-(4-methoxypyridin-2-yl)aniline (165 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (233 mg) and diisopropylethylamine (0.28 ml) in dichloromethane (7 ml) was added 1-methyl-2-chloropyridinium iodide (232 mg), and the mixture was stirred for 16 hours. The mixture was diluted with dichloromethane, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 30 g, n-hexane:ethyl acetate=2:1) to give N,N′-bis(tert-butoxycarbonyl)-N″-(2-chloro-5-(4-methoxypyridin-2-yl)phenyl)guanidine (144 mg).

reactant | 2-chloro-5-(4-methoxypyridin-2-yl)aniline | 165 mg | ClC1=C(N)C=C(C=C1)C1=NC=CC(=C1)OC | C12H11ClN2O
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 233 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethylamine | 0.28 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 232 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(2-chloro-5-(4-methoxypyridin-2-yl)phenyl)guanidine | 144 mg | C(C)(C)(C)OC(=O)NC(=NC1=C(C=CC(=C1)C1=NC=CC(=C1)OC)Cl)NC(=O)OC(C)(C)C | C23H29ClN4O5
